US07553845B2
Synthesis of methyl [1-methoxy-2-methylindolizin-6-yl]carboxylate
1.46 mL (0.0174 mol) of chloroacetone are added to 1.5 g (0.0174 mol) of lithium bromide in 10 mL of acetone and the medium is stirred at room temperature for 15 minutes and then 1.5 g (0.00828 mol) of methyl 6-(methoxymethyl)nicotinate are added and the medium is heated under reflux overnight. 1.5 g (0.0174 mol) of lithium bromide and 1.46 mL (0.0174 mol) of chloroacetone are added to the reaction medium and the medium is kept under reflux for 5 hours. The medium is evaporated to dryness and the residue obtained is taken up in a dichloromethane-methanol (9-1) mixture. The insoluble material obtained is filtered and then 4.62 mL (0.033 mol) of triethylamine are added to the filtrate and the medium is stirred at room temperature for one hour. The reaction medium is concentrated. The residue obtained is taken up in toluene and the product is purified by filtration on a silica bed, eluting with toluene. After evaporation, 450 mg of a yellow solid are obtained.

reactant | chloroacetone | 0.0174 mol, 1.46 mL | ClCC(C)=O | C3H5ClO
reactant | lithium bromide | 0.0174 mol, 1.5 g | [Br-].[Li+]
reactant | methyl 6-(methoxymethyl)nicotinate | 0.00828 mol, 1.5 g | COCC1=NC=C(C(=O)OC)C=C1 | C9H11NO3
reactant | lithium bromide | 0.0174 mol, 1.5 g | [Br-].[Li+]
reactant | chloroacetone | 0.0174 mol, 1.46 mL | ClCC(C)=O | C3H5ClO
reactant | triethylamine | 0.033 mol, 4.62 mL | C(C)N(CC)CC | C6H15N
solvent | acetone | 10 mL | CC(=O)C | C3H6O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane methanol | ClCCl.CO
product | methyl [1-methoxy-2-methylindolizin-6-yl]carboxylate | COC=1C(=CN2C=C(C=CC12)C(=O)OC)C | C12H13NO3
